US08664226B2
To the methanol (10 mL) solution of 4′-{[1-[5-(benzyloxy)pyrimidin-2-yl]-4-butyl-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile (235 mg, 0.434 mmol), 10% Pd—C (containing 50% moisture, 120 mg) was added for hydrogenation. After stirring at room temperature for 1 hr, the reaction mixture was filtered through a pad of celite and washed with methanol. The filtrate was distilled off and the resulting residues were subjected to silica gel column chromatography (chloroform:methanol=10:1) to obtain 4′-{[4-butyl-1-(5-hydroxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile.

reactant | 4′-{[1-[5-(benzyloxy)pyrimidin-2-yl]-4-butyl-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile | 0.434 mmol, 235 mg | C(C1=CC=CC=C1)OC=1C=NC(=NC1)N1C(=NC(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCCC)C | C34H31N5O2
catalyst | Pd—C | 120 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 4′-{[4-butyl-1-(5-hydroxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile | C(CCC)C=1N=C(N(C(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)C1=NC=C(C=N1)O)C | C27H25N5O2
